US07049312B1
2-[(indol-3-yl)methylene]-7-methyl-2H-1,4-benzothiazin-3(4H)-one
Sodium methoxide (0.28 g, 5.2 mmol) was added in one portion to a solution of 7-methyl-2H-1,4-benzothiazin-3(4H)-one (0.72 g, 4.0 mmol) and indole-3-carboxaldehyde (0.88 g, 6.0 mmol) in dry DMF (4 mL). The mixture was heated for 48 h at 140° C., allowed to cool, then poured into water (60 ml). The precipitate was collected by filtration and washed with water. The precipitate was then refluxed with toluene (100 ml) and filtered hot to give a yellow solid which was purified by silica gel chromatography using a gradient of (100:1) to (100:20) toluene:ethanol as the mobile phase.

reactant | Sodium methoxide | 5.2 mmol, 0.28 g | C[O-].[Na+]
reactant | 7-methyl-2H-1,4-benzothiazin-3(4H)-one | 4.0 mmol, 0.72 g | CC1=CC2=C(NC(CS2)=O)C=C1 | C9H9NOS
reactant | indole-3-carboxaldehyde | 6.0 mmol, 0.88 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | water | 60 ml | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[(indol-3-yl)methylene]-7-methyl-2H-1,4-benzothiazin-3(4H)-one | N1C=C(C2=CC=CC=C12)C=C1SC2=C(NC1=O)C=CC(=C2)C | C18H14N2OS
